US07687435B2
1.3) Ethyl (2S,3R)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxy-3-o-tolylpropionate
4.7 g (0.0114 mol) of ethyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-oxo-3-o-tolylpropionate were dissolved in methylene chloride, the solution was degassed in an ultrasonic bath and 200 mg of catalyst mix were added. The catalyst mix had been prepared beforehand by heating 78 mg of dichloro(p-cymene)ruthenium(II) dimer (RuCl2Cy) and 138 mg of BINAP in methylene chloride and ethanol at 50° C. for 1 h, followed by removal of the solvents.

reactant | ethyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-oxo-3-o-tolylpropionate | 0.0114 mol, 4.7 g | FC1=CC(=C(C(=O)NC(C(=O)OCC)C(C2=C(C=CC=C2)C)=O)C=C1)C(F)(F)F | C20H17F4NO4
reactant | BINAP | 138 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
catalyst | dichloro(p-cymene)ruthenium(II) dimer | 78 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)C(C)C.Cl[Ru]Cl.Cl[Ru]Cl
product | Ethyl (2S,3R)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxy-3-o-tolylpropionate | FC1=CC(=C(C(=O)N[C@H](C(=O)OCC)[C@@H](C2=C(C=CC=C2)C)O)C=C1)C(F)(F)F | C20H19F4NO4
